US07745229B2
L. Synthesis of 4-(3-Ethynyl-phenylcarbamoyl)-butyric acid (23)
Glutaric anhydride (215 mg, 1.9 mmol) was dissolved in anhydrous dichloromethane (7 ml) and followed by the addition of 3-ethynylaniline (200 mg, 1.7 mmol). The mixture was allowed to stir at room temperature for 6 hours before the solvent was evaporated under reduced pressure to provide the product as a white solid (363 mg, 99%);

reactant | Glutaric anhydride | 1.9 mmol, 215 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 3-ethynylaniline | 1.7 mmol, 200 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-(3-Ethynyl-phenylcarbamoyl)-butyric acid | 363 mg, 99% | C(#C)C=1C=C(C=CC1)NC(=O)CCCC(=O)O | C13H13NO3
